US05719141
q) 1-Benzyloxymethyl-1-[2(S)-amino-2-methoxycarbonyleth-1-yl]cyclopropane
105 ml of a 1.6M n-butyllithium solution in hexane are added to a solution of 32 ml of (2R)-(-)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine in 180 ml of tetrahydrofuran at -70° C. under argon. The mixture is stirred for 30 min and a solution of 39.1 g of 1-benzyloxymethyl-1-(bromomethyl)cyclopropane in 180 ml of tetrahydrofuran is then added dropwise at the same temperature. The reaction has ended after 2 h. The mixture is poured onto a 5N ammonium chloride solution and the aqueous phase is extracted with methylene chloride. The crude alkylation product thus obtained (38.04 g) is dissolved in 425 ml of acetonitrile, 425 ml of 1N hydrochloric acid are added and the mixture is stirred at room temperature for 2 h. It is then poured onto 500 ml of a 1N sodium bicarbonate solution and extracted with methylene chloride. The crude product is chromatographed over 900 g of silica gel (mobile phase N): Rf (N)=0.28.

reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | (2R)-(-)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine | 32 ml | COC=1[C@H](N=C(CN1)OC)C(C)C | C9H16N2O2
reactant | 1-benzyloxymethyl-1-(bromomethyl)cyclopropane | 39.1 g | C(C1=CC=CC=C1)OCC1(CC1)CBr | C12H15BrO
reactant | ammonium chloride | 5N | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N, 425 ml | Cl | ClH
reactant | sodium bicarbonate | 1N | C([O-])(O)=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 425 ml | C(C)#N | C2H3N
product | 1-Benzyloxymethyl-1-[2(S)-amino-2-methoxycarbonyleth-1-yl]cyclopropane | C(C1=CC=CC=C1)OCC1(CC1)C[C@@H](C(=O)OC)N | C15H21NO3
